US04968676
4-Nitro-4'-phenylbenzophenone
A solution of 147 g (1.05 moles) of 4-nitrobenzoyl chloride in 250 ml of 1,2-dichloroethane and a solution of 154 g (1.0 mole) of biphenyl in 200 ml of 1,2-dichloroethane are added dropwise, in succession, to the suspension of 160 g (1.2 moles) of anhydrous aluminum chloride in 400 ml of 1,2-dichloroethane at 0° C. The mixture is allowed to reach room temperature, after which it is stirred for 2 hours at 50° C. and poured carefully onto ice water. The precipitate is filtered off under suction, washed thoroughly with water and recrystallized from ethanol to give 230 g (89% of theory) of brown crystals of melting point 174°-176° C.

reactant | 4-nitrobenzoyl chloride | 1.05 moles, 147 g | [N+](=O)([O-])C1=CC=C(C(=O)Cl)C=C1 | C7H4ClNO3
reactant | biphenyl | 1.0 mole, 154 g | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
reactant | aluminum chloride | 1.2 moles, 160 g | [Cl-].[Al+3].[Cl-].[Cl-]
solvent | 1,2-dichloroethane | 250 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 200 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 400 ml | ClCCCl | C2H4Cl2
product | 4-Nitro-4'-phenylbenzophenone | [N+](=O)([O-])C1=CC=C(C(=O)C2=CC=C(C=C2)C2=CC=CC=C2)C=C1 | C19H13NO3
